US04689327
0.9 g of ethoxycarbonyl isocyanate is added to a solution of 2 g of 2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine in 30 ml of tetrahydrofuran, and the mixture is stirred at room temperature for 18 hours. 3.1 g of ethoxycarbonyl isocyanate are added to the mixture, and the mixture is stirred at room temperature for 2 hours. Water is added to the mixture, and the aqueous mixture is made alkaline with potassium carbonate. The aqueous mixture is extracted with ethyl acetate, and the extract is washed with water, dried and then concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, benzene:ethyl acetate=1:1). 1.05 g of N-ethoxycarbonyl-2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide are obtained as an amorphous powder.

reactant | ethoxycarbonyl isocyanate | 0.9 g | C(C)OC(=O)N=C=O | C4H5NO3
reactant | 2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine | 2 g | FC=1C=C(C=CC1)N1CCN(CC1)CCOC1=C(C=CC=C1)C1SCCN1 | C21H26FN3OS
reactant | ethoxycarbonyl isocyanate | 3.1 g | C(C)OC(=O)N=C=O | C4H5NO3
reactant | Water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-ethoxycarbonyl-2-{2-[2-(4-(3-fluorophenyl)piperazin-1-yl)ethyloxy]phenyl}thiazolidine-3-carboxamide | 1.05 g | C(C)OC(=O)NC(=O)N1C(SCC1)C1=C(C=CC=C1)OCCN1CCN(CC1)C1=CC(=CC=C1)F | C25H31FN4O4S
